US04442115
4-Methylphenol (54 g) was treated with trifluoroacetic anhydride (110 g). The mixture was heated to 40° C., whereupon a vigorous reaction occurred. After the reaction had subsided, the mixture was heated at 90°-95° C. for 30 minutes and distilled to give 4-methylphenyl trifluoroacetate (92 g), b.p. 169°-170° C.

reactant | 4-Methylphenol | 54 g | CC1=CC=C(C=C1)O | C7H8O
reactant | trifluoroacetic anhydride | 110 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 4-methylphenyl trifluoroacetate | 92 g | FC(C(=O)OC1=CC=C(C=C1)C)(F)F | C9H7F3O2
